US08609656B2
Preparation of (3-amino-5-(trifluoromethyl)phenyl)(4-methylpiperazin-1-yl)methanone
In 50 mL of methanol, 6.77 g (21 mmol) of (3-nitro-5-(trifluoromethyl)phenyl)-(4-methylpiperazin-1-yl)methanone was dissolved, and 400 mg of 10% palladium carbon was added thereto and the mixture solution was stirred in an hydrogen atmosphere under normal pressures at room temperature for three hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure and the residue was recrystallized from hexane and diethyl ether to obtain 6.14 g (quantitative) of a target product as a white solid.

reactant | (3-nitro-5-(trifluoromethyl)phenyl)-(4-methylpiperazin-1-yl)methanone | 21 mmol, 6.77 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCN(CC1)C | C13H14F3N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium carbon | 400 mg | [C].[Pd]
product | (3-amino-5-(trifluoromethyl)phenyl)(4-methylpiperazin-1-yl)methanone | NC=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CCN(CC1)C | C13H16F3N3O
